US06951879B2
According to the method in example 7, 6-(4-Bromo-butoxy)-3-(4-chloro-phenyl)-benzo[d]isothiazole and Diethylamine were converted to yield {4-[3-(4-Chloro-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-diethyl-amine, MS: 389 (MH+, 1Cl).

reactant | 6-(4-Bromo-butoxy)-3-(4-chloro-phenyl)-benzo[d]isothiazole | BrCCCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)Cl)C=C1 | C17H15BrClNOS
reactant | Diethylamine | C(C)NCC | C4H11N
product | {4-[3-(4-Chloro-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-diethyl-amine | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCCN(CC)CC | C21H25ClN2OS
